US06107329
(S)-2-Amino-3-(4-amino-phenyl)-N,N-dimethyl-propionamide dihydrochloride
(S)-[2-(4-Amino-phenyl)-1-dimethylcarbamoyl-ethyl]-carbamic acid tert-butylester (214 mg, 0.7 mmol) was dissolved in 4M HCl-dioxane (2 mL) at 0° C. and the solution stirred for 2 hours at 25° C. The mixture was concentrated and the residue triturated with ether. Yield, 294 mg, 102%; PBMS 208 (MH+, 100%).

reactant | (S)-[2-(4-Amino-phenyl)-1-dimethylcarbamoyl-ethyl]-carbamic acid tert-butylester | 0.7 mmol, 214 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)N)C(N(C)C)=O)=O | C16H25N3O3
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
product | (S)-2-Amino-3-(4-amino-phenyl)-N,N-dimethyl-propionamide dihydrochloride | Cl.Cl.N[C@H](C(=O)N(C)C)CC1=CC=C(C=C1)N | InChI=1S/C11H17N3O.2ClH/c1-14(2)11(15)10(13)7-8-3-5-9(12)6-4-8;;/h3-6,10H,7,12-13H2,1-2H3;2*1H/t10-;;/m0../s1
